* Schematics Netlist *



V_V3         $N_0004 $N_0002 5V
R_R1         $N_0003 $N_0004  1k  
V_V1         $N_0003 0 10V
V_V2         $N_0001 0 5V
R_R2         $N_0002 $N_0001  2k  
R_R3         $N_0002 0 1K
